US05153210
A mixture of 4,5-dihydro-6-[4-(2-hydroxypropyl)-phenyl]-3(2H)-pyridazinone (0.23 g) and pyridiniumchlorochromate (0.21 g) in dichloromethane (20 ml) was stirred at ambient tempeature for 18 hr., filtered and evaporated to a gum which was chromatographed on slice gel. Elution with 4% MeOH in CHCl3 gave 4,5-dihydro-6-[(4-acetonyl)phenyl]-3(2H)-pyridazinone as a crystalline solid.

reactant | 4,5-dihydro-6-[4-(2-hydroxypropyl)-phenyl]-3(2H)-pyridazinone | 0.23 g | OC(CC1=CC=C(C=C1)C=1CCC(NN1)=O)C | C13H16N2O2
reactant | pyridiniumchlorochromate | 0.21 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4,5-dihydro-6-[(4-acetonyl)phenyl]-3(2H)-pyridazinone | C(C(=O)C)C1=CC=C(C=C1)C=1CCC(NN1)=O | C13H14N2O2
